US07429665B2
Dimethyl-(2-{4-pyridin-4-yl-5-[4-(quinolin-2-ylmethoxy)-phenyl]-pyrazol-1-yl}-ethyl)-amine
Following the procedure for the preparation of 2-[4-(1-Methyl-4-pyridin4-yl-1H-pyrazol-3-yl)-phenoxymethyl]-quinoline but substituting (2-hydrazino-ethyl)-dimethyl-amine provided the title compound. 1H NMR (400 MHz, CDCl3) δ 8.35 (d, J=6.2 Hz, 2 H), 8.22 (d, J=8.3 Hz, 1 H), 8.08 (d, J=8.7 Hz, 1H), 7.85 (m, 2 H), 7.73 (m 2H), 7.57 (t, J=7.1 Hz, 1H), 7.23 (m, 2H), 7.17 (d, J=9.1 Hz, 2H) 7.00 (d, J=6.2 Hz, 2H), 5.42 (s, 2H), 4.05 (t, J=6.6 Hz, 2H), 2.66 (t, J=7.1 Hz, 2H), 2.10 (s, 6H); MS: (M+H m/z=450.4).

reactant | 2-[4-(1-Methyl-4-pyridin4-yl-1H-pyrazol-3-yl)-phenoxymethyl]-quinoline | CN1N=C(C(=C1)C1=CC=NC=C1)C1=CC=C(OCC2=NC3=CC=CC=C3C=C2)C=C1 | C25H20N4O
reactant | (2-hydrazino-ethyl)-dimethyl-amine | N(N)CCN(C)C | C4H13N3
product | Dimethyl-(2-{4-pyridin-4-yl-5-[4-(quinolin-2-ylmethoxy)-phenyl]-pyrazol-1-yl}-ethyl)-amine | CN(CCN1N=CC(=C1C1=CC=C(C=C1)OCC1=NC2=CC=CC=C2C=C1)C1=CC=NC=C1)C | C28H27N5O
